US06420375B1
(ii) Preparation of (E)-3-(5,6,7,8-tetrahydronaphthalen-2-yl)-2-buten-1-ol
A solution of diisobutylaluminum hydride in toluene (1.5M, 25 ml) was added dropwise to a solution of ethyl (E)-3-(5,6,7,8-tetrahydro-2-naphtyl)crotonate (3.72 g) in CH2Cl2 at −78° C. and the mixture was stirred at −78° C. for 15 minutes. The reaction mixture was washed with 1N HCl and brine, dried and concentrated to give the titled compound (2.65 g) as a colorless oil.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (E)-3-(5,6,7,8-tetrahydro-2-naphtyl)crotonate | 3.72 g | C1=C(C=CC=2CCCCC12)/C(=C/C(=O)OCC)/C | C16H20O2
solvent | toluene | 1.5M, 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (E)-3-(5,6,7,8-tetrahydronaphthalen-2-yl)-2-buten-1-ol | 2.65 g | C1=C(C=CC=2CCCCC12)/C(=C/CO)/C | C14H18O
